US05731322
Ethyl 2-phenylhydrazono-4,4,4-trifluoro-3-oxobutyrate
7.3 ml (0.05 mol) of ethyl 3-oxo-4,4,4-trifluoroacetoacetate, 6 g (0.073 mol) of CH3COONa, 20 ml of water, 37.5 ml of ethanol and a solution of 0.05 mol of phenyldiazonium chloride were treated as described in preparation 2. The crude product was purified by chromatography on silica gel (hexane/Et2O 0%→25%) obtaining 8.65 g of the title compound. M.p.=78°-80° C.

reactant | ethyl 3-oxo-4,4,4-trifluoroacetoacetate | 0.05 mol, 7.3 ml | CCOC(=O)CC(=O)C(F)(F)F | C6H7F3O3
reactant | CH3COONa | 0.073 mol, 6 g | CC(=O)O[Na]
reactant | water | 20 ml | O | H2O
reactant | phenyldiazonium chloride | 0.05 mol | [Cl-].C1(=CC=CC=C1)[N+]#N
solvent | ethanol | 37.5 ml | C(C)O | C2H6O
product | Ethyl 2-phenylhydrazono-4,4,4-trifluoro-3-oxobutyrate | 8.65 g | C1(=CC=CC=C1)NN=C(C(=O)OCC)C(C(F)(F)F)=O | C12H11F3N2O3
